US08492582B2
Piperidine (0.049 mL), cesium carbonate (0.22 g), tris(dibenzylideneacetone)dipalladium(0) (3.0 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (7.9 mg), and palladium(II) acetate (1.5 mg) were added to a toluene (2.0 mL) suspension of tert-butyl 2-(2-(benzyloxy)-4-iodobenzamido)-4-phenylbenzoate (0.20 g), followed by heating to reflux under a nitrogen atmosphere for 2 hours. The reaction mixture was cooled to room temperature, and then piperidine (0.033 mL), cesium carbonate (0.11 g), tris(dibenzylideneacetone)dipalladium(0) (3.0 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (7.9 mg), and palladium(II) acetate (1.5 mg) were added thereto, followed by heating to reflux under a nitrogen atmosphere for 4 hours and 30 minutes. The reaction mixture was cooled to room temperature, and then a 10% aqueous solution of citric acid and ethyl acetate were added thereto. The insoluble substance was removed by filtration. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 100-85% hexane/ethyl acetate] to obtain 0.13 g of tert-butyl 2-(2-(benzyloxy)-4-(piperidin-1-yl)benzamido)-4-phenylbenzoate.

reactant | Piperidine | 0.049 mL | N1CCCCC1 | C5H11N
reactant | cesium carbonate | 0.22 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl 2-(2-(benzyloxy)-4-iodobenzamido)-4-phenylbenzoate | 0.20 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)I | C31H28INO4
reactant | piperidine | 0.033 mL | N1CCCCC1 | C5H11N
reactant | cesium carbonate | 0.11 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 3.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium(II) acetate | 1.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 3.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium(II) acetate | 1.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 7.9 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 7.9 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2-(2-(benzyloxy)-4-(piperidin-1-yl)benzamido)-4-phenylbenzoate | 0.13 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)N1CCCCC1 | C36H38N2O4
